US05599832
Preparation of 5,7-Dichloro-2-(3,5-dichlorophenyl)-3-(trifluoromethylcarbonyl)indole
A solution of 5,7-dichloro-2-(3,5-dichlorophenyl)indole (2.0 g, 6.0 mmole) in dimethylformamide is treated with 1.0 mL of trifluoroacetic anhydride at 0°-5° C., stirred for 1 hour, heated at 50°-60° C. for 1 hour, stirred at ambient temperatures for 72 hours, poured over ice and extracted with diethyl ether. The combined extracts are washed sequentially with water and brine, dried over anhydrous K2CO3 and concentrated in vacuo to afford the title product as an off-white solid, 1.6 g (62% yield), mp 214°-216° C., identified by IR and 1HNMR analyses.

reactant | 5,7-dichloro-2-(3,5-dichlorophenyl)indole | 6.0 mmole, 2.0 g | ClC=1C=C2C=C(NC2=C(C1)Cl)C1=CC(=CC(=C1)Cl)Cl | C14H7Cl4N
reactant | trifluoroacetic anhydride | 1.0 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,7-Dichloro-2-(3,5-dichlorophenyl)-3-(trifluoromethylcarbonyl)indole | 62% yield | ClC=1C=C2C(=C(NC2=C(C1)Cl)C1=CC(=CC(=C1)Cl)Cl)C(=O)C(F)(F)F | C16H6Cl4F3NO
